US04235915
1-[2-Thienyl]-3-[1-(2-[1,4-benzodioxan-2-yl]-2-hydroxyethyl)piperid-4-yl]urea
1-[2-Thienyl]-3-[1-(2-[1,4-benzodioxan-2-yl]-2-oxoethyl)piperid-4-yl]urea, prepared by reacting 1-(piperid-4-yl)-3-(2-thienyl)urea with 2-bromoacetyl-1,4-benzodioxan in DMF/Et3N, may be reduced using sodium borohydride in 2 N sodium hydroxide to give the title compound.

reactant | 1-[2-Thienyl]-3-[1-(2-[1,4-benzodioxan-2-yl]-2-oxoethyl)piperid-4-yl]urea | S1C(=CC=C1)NC(=O)NC1CCN(CC1)CC(=O)C1COC2=C(O1)C=CC=C2 | C20H23N3O4S
reactant | 1-(piperid-4-yl)-3-(2-thienyl)urea | N1CCC(CC1)NC(=O)NC=1SC=CC1 | C10H15N3OS
reactant | 2-bromoacetyl-1,4-benzodioxan | BrCC(=O)C1COC2=C(O1)C=CC=C2 | C10H9BrO3
reactant | sodium borohydride | [BH4-].[Na+]
solvent | DMF Et3N | CN(C)C=O.CCN(CC)CC
solvent | sodium hydroxide | 2 N | [OH-].[Na+]
product | 1-[2-Thienyl]-3-[1-(2-[1,4-benzodioxan-2-yl]-2-hydroxyethyl)piperid-4-yl]urea | S1C(=CC=C1)NC(=O)NC1CCN(CC1)CC(O)C1COC2=C(O1)C=CC=C2 | C20H25N3O4S
